### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Functor): pushout-products and pullback-powers

### PR DESCRIPTION
**Pull request by mckoen**
Adds basic API for pushout-products and pullback-powers (also called the Leibniz constructions). Moves the API for `PushoutObjObj` and `PullbackObjObj` from `Mathlib.CategoryTheory.LiftingProperties.ParametrizedAdjunction` and uses this API to define the Leibniz bifunctors on the associated arrow categories.

- https://ncatlab.org/nlab/show/pushout-product

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 1]
```diff
@@ -0,0 +1,473 @@
...
+
+If `C₂` has pullbacks, then we define the Leibniz pullback (often called pullback-hom) as the
+canonical projection `(PullbackObjObj.ofHasPullback G f₁ f₃).π`. This defines a bifunctor
+`LeibnizPullback.rightBifunctor G : (Arrow C₁)ᵒᵖ ⥤ Arrow C₃ ⥤ Arrow C₂`.
+
+## References
+
+* https://ncatlab.org/nlab/show/pushout-product
+* https://ncatlab.org/nlab/show/pullback-power
+
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean:41]: Please add a reference to a place in the literature where the term "Leibniz" is coined.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 2]
```diff
@@ -0,0 +1,473 @@
...
+  pushout maps. -/
+@[simp]
+def leftFunctor_map :
+    Arrow.mk sq₁₂.ι ⟶ Arrow.mk sq₁₂'.ι where
+  left := leftFunctor_map_left F f₁ sq sq₁₂ sq₁₂'
+  right := (F.obj f₁.right).map sq.right
+  w := by
+    apply sq₁₂.isPushout.hom_ext
+    · simp [← map_comp]
+    · cat_disch
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: Several things, which also apply to `leftBifunctor_map_app` below

- Usually, defs are not marked with `@[simp]`, but are made `@[simps]` instead.
- The definition `leftFunctor_map_left` is superfluous. I think it should be inlined within `leftFunctor_map` instead of adding an extra def etc.
- These definitions are not about `leibnizPushout`, but are instead about general `pushoatObjObj`: they should not be in the `LeibnizPushout` namespace, but within the `PushoutObjObj` namespace instead. This way, the definitions constructing isomorphisms would also be in the namespace.
- Related to the previous point: because the definitions are not directly the `map` field of `leftFunctor`, they should have other names. I think `mapArrowRight` (and `mapArrowLeft` for `leftBifunctor_map_app`) or something in that flavor would be better. Ideally, there should be lemmas `mapArrowLeft_id` and `mapArrowLeft_comp`.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 3]
```diff
@@ -0,0 +1,473 @@
...
+    leftFunctor F f₁ ⟶ leftFunctor F f₁' where
+  app f₂ := leftBifunctor_map_app F f₂ sq (PushoutObjObj.ofHasPushout F _ _)
+    (PushoutObjObj.ofHasPushout F _ _)
+
+/-- Given a bifunctor `F : C₁ ⥤ C₂ ⥤ C₃` to a category `C₃` which has pushouts, the `leibnizPushout`
+  construction defines a bifunctor `Arrow C₁ ⥤ Arrow C₂ ⥤ Arrow C₃`. -/
+@[simp]
+def leftBifunctor [HasPushouts C₃] : Arrow C₁ ⥤ Arrow C₂ ⥤ Arrow C₃ where
+  obj := leftFunctor F
+  map := leftBifunctor_map F
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: I think we can cut the amount of definitions here also: We can directly have 

```lean
/-- Given a bifunctor `F : C₁ ⥤ C₂ ⥤ C₃` to a category `C₃` which has pushouts, the `leibnizPushout`
  construction defines a bifunctor `Arrow C₁ ⥤ Arrow C₂ ⥤ Arrow C₃`. -/
@[simps]
def leibnizPushout [HasPushouts C₃] : Arrow C₁ ⥤ Arrow C₂ ⥤ Arrow C₃ where
  obj f₁ :=
    { obj f₂ := Arrow.mk <| (Functor.PushoutObjObj.ofHasPushout F f₁.hom f₂.hom).ι
      map sq :=
        mapArrowRight F f₁ sq
          (PushoutObjObj.ofHasPushout F ..)
          (PushoutObjObj.ofHasPushout F ..) }
  map sq₁ :=
    { app f₂ :=
        mapArrowLeft F f₂ sq₁
          (PushoutObjObj.ofHasPushout F ..)
          (PushoutObjObj.ofHasPushout F ..) }
```

and then `leftBifunctor_map` can be removed. 

Also, note that I changed the name: I think this bifunctor should be the one claiming the name `leibnizPushout` (instead of having an abbrev as previously). This way, the fact that the construction is bifunctorial gets literally baked in its type.

The previous abbreviation would be useful if for instance we wanted to work in cases where it is only partially defined, e.g not all pushouts exist (in which case the construction can’t be the objects of a bifunctor defined everywhere), but I think for this purpose the pushoutObjObj API is sufficient.

**Review by robin-carlier — COMMENTED** [review]
Thanks for the PR! The main suggestion is to reduce the amount of defs to construct the bifunctors "all at once". I only left comments for the pushout-product part but they also apply to the pullback-power part.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 4]
```diff
@@ -0,0 +1,427 @@
...
+  apply sq.flip.isPushout.hom_ext
+  · rw [inl_ι, flip_inl, inr_ι, flip_obj_map]
+  · rw [inr_ι, flip_inr, inl_ι, flip_map_app]
+
+@[simp]
+lemma ofHasPushout_ι
+    [HasPushout ((F.map f₁).app X₂) ((F.obj X₁).map f₂)] :
+    (ofHasPushout F f₁ f₂).ι =
+    (IsPushout.of_hasPushout ((F.map f₁).app X₂) ((F.obj X₁).map f₂)).desc
+      ((F.obj Y₁).map f₂) ((F.map f₁).app Y₂) (((F.map f₁).naturality f₂).symm) := rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: I do not think this should be a simp lemma. (Note that `(IsPushout.of_hasPushout ...).desc` should also be equal to `pushout.desc`.)

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 5]
```diff
@@ -0,0 +1,427 @@
...
+  apply Arrow.hom_ext
+  · apply sq₁₂.isPushout.hom_ext
+    all_goals simp
+  · simp
+
+@[simp]
+lemma mapArrowLeft_comp {f₁'' : Arrow C₁} (sq₁₂'' : F.PushoutObjObj f₁''.hom f₂.hom)
+    (sq : f₁ ⟶ f₁') (sq' : f₁' ⟶ f₁'') :
+    (mapArrowLeft sq₁₂ sq₁₂' sq) ≫ (mapArrowLeft sq₁₂' sq₁₂'' sq') =
+      mapArrowLeft sq₁₂ sq₁₂'' (sq ≫ sq') := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
@[reassoc (attr := simp)]
lemma mapArrowLeft_comp {f₁'' : Arrow C₁} (sq₁₂'' : F.PushoutObjObj f₁''.hom f₂.hom)
    (sq : f₁ ⟶ f₁') (sq' : f₁' ⟶ f₁'') :
    mapArrowLeft sq₁₂ sq₁₂' sq ≫ mapArrowLeft sq₁₂' sq₁₂'' sq' =
      mapArrowLeft sq₁₂ sq₁₂'' (sq ≫ sq') := by
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean (hunk 4 above)
Comment (mckoen) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: Agreed, this is an artifact from some older troubleshooting---I will remove it

Comment (mckoen) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: Is
```
@[simp]
lemma ofHasPushout_ι [HasPushout ((F.map f₁).app X₂) ((F.obj X₁).map f₂)] :
    (ofHasPushout F f₁ f₂).ι =
      pushout.desc ((F.obj Y₁).map f₂) ((F.map f₁).app Y₂) (by simp) := by
  apply (ofHasPushout F f₁ f₂).isPushout.hom_ext
  all_goals simp [PushoutObjObj.ι]
```
preferable?

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 6]
```diff
@@ -0,0 +1,427 @@
...
+    (sq₁₂ : F.PushoutObjObj f₁.hom f₂.hom)
+    (sq₁₂' : F.PushoutObjObj f₁.hom f₂'.hom)
+
+/-- Given a `PushoutObjObj` of `f₁ : Arrow C₁` and `f₂ : Arrow C₂`, a `PushoutObjObj` of `f₁` and
+  `f₂' : Arrow C₂`, and a morphism `f₂ ⟶ f₂'`, this defines a morphism between the induced
+  pushout maps. -/
+@[simps]
+def mapArrowRight (sq : f₂ ⟶ f₂') :
+    Arrow.mk sq₁₂.ι ⟶ Arrow.mk sq₁₂'.ι where
+  left :=   sq₁₂.isPushout.desc
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
  left := sq₁₂.isPushout.desc
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 7]
```diff
@@ -0,0 +1,427 @@
...
+  (sq₁₃' : G.PullbackObjObj f₁'.hom f₃.hom)
+
+/-- Given a `PullbackObjObj` of `f₁ : Arrow C₁` and `f₃ : Arrow C₃`, a `PullbackObjObj` of `f₁'` and
+  `f₃ : Arrow C₃`, and a morphism `f₁' ⟶ f₁`, this defines a morphism between the induced
+  pullback maps. -/
+@[simps]
+def mapArrowLeft (sq : f₁' ⟶ f₁) :
+    Arrow.mk sq₁₃.π ⟶ Arrow.mk sq₁₃'.π where
+  left := (G.map sq.right.op).app f₃.left
+  right :=   sq₁₃'.isPullback.lift
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
  right := sq₁₃'.isPullback.lift
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 8]
```diff
@@ -0,0 +1,427 @@
...
+    apply sq₁₂.isPushout.hom_ext
+    all_goals simp [← NatTrans.comp_app, ← Functor.map_comp]
+
+@[simp]
+lemma mapArrowLeft_id :
+    mapArrowLeft sq₁₂ sq₁₂ (𝟙 _) = 𝟙 _ := by
+  apply Arrow.hom_ext
+  · apply sq₁₂.isPushout.hom_ext
+    all_goals simp
+  · simp
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: Note that `cat_disch` can golf this (and others) once you get `ext` to learn about the universal properties of maps out of the `pt` of a `pushoutObjObj`:
```lean
@[ext]
lemma hom_ext {z : C₃} {f g : sq.pt ⟶ z} (hₗ : sq.inl ≫ f = sq.inl ≫ g) 
    (hᵣ : sq.inr ≫ f = sq.inr ≫ g) : f = g := 
  sq.isPushout.hom_ext hₗ hᵣ
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean (hunk 4 above)
Comment (robin-carlier) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: @joelriou are you satisfied by the new lemma? IMO it is coherent with the fact that `ofHasPushout` is `@[simps]`. If we want to actively prevent `simp` from permeating through the `pushoutObjObj` API for `ofHasPushout`, we should also make them `ofHasPushout` a `@[simps -isSimp]` instead (and then this one should’nt be simp).

Also note that sadly the `(isPushout.of_hasPushout _ _).desc` keep creeping up: if we tag leibnizPushout with  `@[simps!]` these terms still appear, so we may need manual lemmas for `leibnizPushout` if we want everything to be stated in terms of the `pushout` API.

**Review by robin-carlier — COMMENTED** [review]
The question of whether or not `ofHasPushout_ι` needs to be a `simp` lemma remains open. As said in one of the review comments below, it’s basically a question on how much we want `leibnizPushout` to reduce to the language of `pushout` or keep its surrounding API closer to the `pushoutObjObj` one: if we want the former, then there is probably an need for manual lemmas to rewrite the `IsPushout.desc` to `pushout.desc` (note the two can’t be defeq). If instead we want the latter, it would also make more sense to unsimp the definitional lemmas for `isPushout`, so that `simp` does not break the barrier unless we explicitly ask for it.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean (hunk 4 above)
Comment (mckoen) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: I'm not very comfortable with simp lemmas so I'll wait for Joël to weigh in, but surely we want anything involving `of_hasPushout` to reduce to `pushout` API? In any case, without `ofHasPushout_ι` I end up having to manually add `simp [PushoutObjObj.ι]` to numerous proofs in #33935.

If adding "manual" lemmas is the way to go, I'd appreciate some pointers

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]: > Also note that sadly the `(isPushout.of_hasPushout _ _).desc` keep creeping up

Why not just define `ofHasPushout` as follows to avoid this?

```lean
/-- The `PushoutObjObj` structure given by the pushout of the colimits API. -/
@[simps]
noncomputable def ofHasPushout
    [HasPushout ((F.map f₁).app X₂) ((F.obj X₁).map f₂)] :
    F.PushoutObjObj f₁ f₂ where
  pt := pushout ((F.map f₁).app X₂) ((F.obj X₁).map f₂)
  inl := pushout.inl _ _
  inr := pushout.inr _ _
  isPushout := IsPushout.of_hasPushout _ _
```

**Comment by robin-carlier** [comment]
Ah, actually, I just noticed the `ofHasPullback` section and `ofHasPullback_π` was not kept in sync with the one for `ofHasPushout`! Please sync them and then it should be good to go.

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 9]
```diff
@@ -0,0 +1,407 @@
...
+    all_goals simp [← NatTrans.comp_app, ← Functor.map_comp]
+
+@[simp]
+lemma mapArrowLeft_id :
+    mapArrowLeft sq₁₂ sq₁₂ (𝟙 _) = 𝟙 _ := by cat_disch
+
+@[reassoc (attr := simp)]
+lemma mapArrowLeft_comp {f₁'' : Arrow C₁} (sq₁₂'' : F.PushoutObjObj f₁''.hom f₂.hom)
+    (sq : f₁ ⟶ f₁') (sq' : f₁' ⟶ f₁'') :
+    (mapArrowLeft sq₁₂ sq₁₂' sq) ≫ (mapArrowLeft sq₁₂' sq₁₂'' sq') =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
    mapArrowLeft sq₁₂ sq₁₂' sq ≫ mapArrowLeft sq₁₂' sq₁₂'' sq' =
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 10]
```diff
@@ -0,0 +1,407 @@
...
+    · cat_disch
+
+@[simp]
+lemma mapArrowRight_id :
+    mapArrowRight sq₁₂ sq₁₂ (𝟙 _) = 𝟙 _ := by cat_disch
+
+@[reassoc (attr := simp)]
+lemma mapArrowRight_comp {f₂'' : Arrow C₂} (sq₁₂'' : F.PushoutObjObj f₁.hom f₂''.hom)
+    (sq : f₂ ⟶ f₂') (sq' : f₂' ⟶ f₂'') :
+    (mapArrowRight sq₁₂ sq₁₂' sq) ≫ (mapArrowRight sq₁₂' sq₁₂'' sq') =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
    mapArrowRight sq₁₂ sq₁₂' sq ≫ mapArrowRight sq₁₂' sq₁₂'' sq' =
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 11]
```diff
@@ -0,0 +1,407 @@
...
+    · cat_disch
+
+@[simp]
+lemma mapArrowLeft_id :
+    mapArrowLeft sq₁₃ sq₁₃ (𝟙 _) = 𝟙 _ := by cat_disch
+
+@[simp]
+lemma mapArrowLeft_comp {f₁'' : Arrow C₁} (sq₁₃'' : G.PullbackObjObj f₁''.hom f₃.hom)
+    (sq' : f₁'' ⟶ f₁') (sq : f₁' ⟶ f₁) :
+    (mapArrowLeft sq₁₃ sq₁₃' sq) ≫ (mapArrowLeft sq₁₃' sq₁₃'' sq') =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
    mapArrowLeft sq₁₃ sq₁₃' sq ≫ mapArrowLeft sq₁₃' sq₁₃'' sq' =
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 12]
```diff
@@ -0,0 +1,407 @@
...
+    all_goals simp [← Functor.map_comp]
+
+@[simp]
+lemma mapArrowRight_id :
+    mapArrowRight sq₁₃ sq₁₃ (𝟙 _) = 𝟙 _ := by cat_disch
+
+@[simp]
+lemma mapArrowRight_comp {f₃'' : Arrow C₃} (sq₁₃'' : G.PullbackObjObj f₁.hom f₃''.hom)
+    (sq : f₃ ⟶ f₃') (sq' : f₃' ⟶ f₃'') :
+    (mapArrowRight sq₁₃ sq₁₃' sq) ≫ (mapArrowRight sq₁₃' sq₁₃'' sq') =
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
    mapArrowRight sq₁₃ sq₁₃' sq ≫ mapArrowRight sq₁₃' sq₁₃'' sq' =
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 13]
```diff
@@ -0,0 +1,407 @@
...
+    (by grind [sq.w, sq₁₃.isPullback.w])
+  w := by
+    apply PullbackObjObj.hom_ext
+    all_goals simp [← Functor.map_comp]
+
+@[simp]
+lemma mapArrowRight_id :
+    mapArrowRight sq₁₃ sq₁₃ (𝟙 _) = 𝟙 _ := by cat_disch
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean [hunk 14]
```diff
@@ -0,0 +1,407 @@
...
+  w := by
+    apply PullbackObjObj.hom_ext
+    · simp [← NatTrans.comp_app, ← map_comp, ← op_comp]
+    · cat_disch
+
+@[simp]
+lemma mapArrowLeft_id :
+    mapArrowLeft sq₁₃ sq₁₃ (𝟙 _) = 𝟙 _ := by cat_disch
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Pullback/PullbackObjObj.lean]:
```suggestion
@[reassoc (attr := simp)]
```
